US09227978B2
2-(Vinylsulfonyl)octahydropyrrolo[3,4-c]pyrrole
A mixture of tert-butyl 5-(vinylsulfonyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (150 mg, 0.50 mmol) in HCl/MeOH (20 mL, 2.86 M) was stirred at room temperature for 1 h. The mixture was concentrated in vacuo to afford the crude product (110 mg) as a solid which was used directly in next step without further purification.

reactant | tert-butyl 5-(vinylsulfonyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 0.50 mmol, 150 mg | C(=C)S(=O)(=O)N1CC2C(C1)CN(C2)C(=O)OC(C)(C)C | C13H22N2O4S
solvent | HCl MeOH | 2.86 M, 20 mL | Cl.CO
product | 2-(Vinylsulfonyl)octahydropyrrolo[3,4-c]pyrrole | 110 mg | C(=C)S(=O)(=O)N1CC2CNCC2C1 | C8H14N2O2S
